US04038408
Reaction of 3-methoxy-2-(2-aminoethylsulphinylmethyl)-pyridine with 1-methylthio-1-methylsulphinyl-2-nitroethylene yields 1-methylthio-2-nitro-1-[2-((3-methoxy-2-pyridyl)methylsulphinyl)ethylamino]ethylene which, when reacted with 4-(4-aminobutyl)imidazole yields 1-nitro-2-[2-((3-methoxy-2-pyridyl)methylsulphinyl)ethylamino]-2-[4-(4-imidazolyl)butylamino]ethylene.

reactant | 3-methoxy-2-(2-aminoethylsulphinylmethyl)-pyridine | COC=1C(=NC=CC1)CS(=O)CCN | C9H14N2O2S
reactant | 1-methylthio-1-methylsulphinyl-2-nitroethylene | CSC(=C[N+](=O)[O-])S(=O)C | C4H7NO3S2
product | 1-methylthio-2-nitro-1-[2-((3-methoxy-2-pyridyl)methylsulphinyl)ethylamino]ethylene | CSC(=C[N+](=O)[O-])NCCS(=O)CC1=NC=CC=C1OC | C12H17N3O4S2
